US06399629B1
(A) cis-4-Hydroxy-L-Pipecolinic Acid Methyl Ester
A mixture of (1S,5R)-2-((S)-1-phenylethyl)-6-oxa-2-azabicyclo[3.2.1]octan-7-one (2.95 g) and 10% palladium on activated carbon (570 mg) in methanol (75 mL) was stirred at room temperature for 6 hr under hydrogen (3.5 kgf/cm2). The catalysts were removed by filtration and washed with methanol. The combined organic layers were evaporated in vacuo. A mixture of the residue and 10% palladium on activated carbon (500 mg) in methanol (75 mL) was stirred at room temperature for 8 hr under hydrogen (3.5 kgf/cm2). The catalysts were removed by filtration and washed with methanol. The combined organic layers were evaporated in vacuo. The mixture of the residue and 10% palladium on activated carbon (504 mg) in methanol (75 mL) was stirred at room temperature for 8 hr under hydrogen (4.0 kgf/cm2). The catalysts were removed by filtration and washed with methanol. The combined organic layers were evaporated in vacuo to give the title compound (2.11 g): 1H NMR (400 MHz, CDCl3) δ 1.32-1.49 (m, 2H), 1.83 (br s, 2H), 1.93-1.95 (m, 1H), 2.27-2.32 (m, 1H), 2.61-2.69 (m, 1H), 3.22 (dt, J=12.7, 3.9 Hz, 1H), 3.39 (dd, J=2.9, 10.7 Hz, 1H), 3.71-3.78 (m, 1H), and 3.75 (m, 3H).

reactant | (1S,5R)-2-((S)-1-phenylethyl)-6-oxa-2-azabicyclo[3.2.1]octan-7-one | 2.95 g | C1(=CC=CC=C1)[C@H](C)N1[C@@H]2C(O[C@H](CC1)C2)=O | C14H17NO2
reactant | methanol | 75 mL | CO | CH4O
catalyst | palladium on activated carbon | 570 mg | [Pd] | Pd
product | cis-4-Hydroxy-L-Pipecolinic Acid Methyl Ester | 2.11 g | COC([C@@H]1NCC[C@@H](C1)O)=O | C7H13NO3
